US07960563B2
1-{3-Fluoro-4-[(phenylmethyl)oxy]phenyl}-6-methyl-1H-indazol-4-ol (D13)
A solution of 4-bromo-1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-6-methyl-1H-indazole (D12) (1.97 g, 4.5 mmol) and KOH (1 g, 18 mmol) in dioxane (50 mL) and water (50 mL) was sonicated under a flow of argon for 5 minutes after which the bis(1,1-dimethylethyl)[2′,4′,6′-tris(1-methylethyl)-2-biphenylyl]phosphane (115 mg, 0.27 mmol) and Pd2 dba3 (82 mg, 0.09 mmol) were added and it was heated to reflux for 2 hours. The mixture was then cooled to room temperature, diluted with EtOAc and water and the pH was adjusted to circa 7 with 1M HCl. The phases were separated, the aqueous re-extracted with EtOAc and the combined organics were finally dried over MgSO4. The crude material (2.1 g) was purified by flash chromatography (Biotage SP4, 40+M silica column) with a gradient of EtOAc 0 to 50% in hexane to afford 730 mg of desired compound (D13).

reactant | 4-bromo-1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-6-methyl-1H-indazole | 4.5 mmol, 1.97 g | BrC1=C2C=NN(C2=CC(=C1)C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F | C21H16BrFN2O
reactant | KOH | 18 mmol, 1 g | [OH-].[K+]
reactant | bis(1,1-dimethylethyl)[2′,4′,6′-tris(1-methylethyl)-2-biphenylyl]phosphane | 0.27 mmol, 115 mg | CC(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | HCl | 1M | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2 dba3 | 0.09 mmol, 82 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-{3-Fluoro-4-[(phenylmethyl)oxy]phenyl}-6-methyl-1H-indazol-4-ol | 730 mg | FC=1C=C(C=CC1OCC1=CC=CC=C1)N1N=CC=2C(=CC(=CC12)C)O | C21H17FN2O2
